US05990108
The diethyl 1-oxoindan-4-ylmethylphosphonate can be prepared in the following manner: a mixture of 0.5 g of 4-(bromomethyl)indan-1-one, 0.9 g of triethyl phosphate and 5 ml of xylene is heated at reflux for 5 hours. The reaction medium is concentrated in a rotary evaporator and then the residue is purified by chromatography on silica, eluting with an ethyl acetate-petroleum ether (85-15 by volume) mixture. 0.4 g of diethyl (2-bromo-1-oxoindan-4-yl)methylphosphonate is obtained in the form of a colourless oil [1H NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz): 1.20 (6H, t, J=6 Hz, 2 CH3), 2.70 (2H, m, CH2CO), 3.20 (2H, m, CH2), 3.38 (2H, d, J=22 Hz, PCH2), 4.00 (2H, q, J=6 Hz, OCH2), 7.45 (1H, t, J=7 Hz, arom. CH), 7.60 (2H, m, 2 arom. CH)].

reactant | diethyl 1-oxoindan-4-ylmethylphosphonate | O=C1CCC2=C(C=CC=C12)CP(OCC)(OCC)=O | C14H19O4P
reactant | 4-(bromomethyl)indan-1-one | 0.5 g | BrCC1=C2CCC(C2=CC=C1)=O | C10H9BrO
reactant | triethyl phosphate | 0.9 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | diethyl (2-bromo-1-oxoindan-4-yl)methylphosphonate | 0.4 g | BrC1C(C2=CC=CC(=C2C1)CP(OCC)(OCC)=O)=O | C14H18BrO4P
